US06743920B2
N-[2-Chloro-4-(2-methylpropylamino)-6-methylpyridin-3-yl]-2-ethoxyacetamide
Anhydrous dichloromethane (750 ml) and 2-chloro-N4-(2-methylpropyl)-6-methylpyridin-3,4-diamine (18.84 g) were combined and cooled to 0° C. Triethylamine (12.9 ml) was added dropwise to the resulting mixture, and then ethoxyacetyl chloride (11.34 g) dissolved in anhydrous dichloromethane (50 ml) was added slowly to the resulting mixture, which turned dark. After two hours the dark mixture was allowed to warm to room temperature. TLC analysis of the reaction mixture indicated completion, and the solvent was removed under reduced pressure. The resulting yellow solid was dissolved in chloroform, and the resulting solution was washed with water. The organic layer was dried with magnesium sulfate and concentrated to a dark brown oil (27.75 g) under reduced pressure. NMR analysis of the oil indicated desired product of suitable purity for use in the next step.

reactant | 2-chloro-N4-(2-methylpropyl)-6-methylpyridin-3,4-diamine | 18.84 g | ClC1=NC(=CC(=C1N)NCC(C)C)C | C10H16ClN3
reactant | Triethylamine | 12.9 ml | C(C)N(CC)CC | C6H15N
reactant | ethoxyacetyl chloride | 11.34 g | C(C)OCC(=O)Cl | C4H7ClO2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 750 ml | ClCCl | CH2Cl2
product | N-[2-Chloro-4-(2-methylpropylamino)-6-methylpyridin-3-yl]-2-ethoxyacetamide | ClC1=NC(=CC(=C1NC(COCC)=O)NCC(C)C)C | C14H22ClN3O2
